US04338314
10 g 7-chloro-1-(β-chlorethyl)-2-chlormethyl-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine were reacted in 200 ml methanol with 20 g ammonia gas in a gas autoclave for 16 hours at 90° to 95° C. After heating of the solution under vacuum, the reaction material is yielded in chloroform and washed with dilute aqueous sodium hydroxide solution. After drying and evaporating of the solvent under vacuum the resultive oily reaction product is dissolved in ether. From the concentrated solution, 5 g of 1,2,3,4,4a,5-hexahydro-9-chloro-7-phenyl-pyrazino[1,2-a]-[1,4]benzodiazepine having a melting point of 132°-135° C. are obtained by crystallization.

reactant | 7-chloro-1-(β-chlorethyl)-2-chlormethyl-5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine | 10 g | ClC=1C=CC2=C(C(=NCC(N2CCCl)CCl)C2=CC=CC=C2)C1 | C18H17Cl3N2
reactant | ammonia | 20 g | N | H3N
solvent | methanol | 200 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1,2,3,4,4a,5-hexahydro-9-chloro-7-phenyl-pyrazino[1,2-a]-[1,4]benzodiazepine | 5 g | ClC=1C=CC2=C(C(=NCC3N2CCNC3)C3=CC=CC=C3)C1 | C18H18ClN3
